US06235789B1
2-[3-(7-Methoxy-3,4-dihydronaphthalen-1-yl)propyl]isoindole-1,3-dione
A mixture of 4-(3-bromopropyl)-6-methoxy-1,2-dihydronaphthalene (10 g, 35.6 mmol), potassium phthalimide (7.9 g, 42.7 mmol) and DMF (50 ml ) was heated at 100° C. for 1 hour and then cooled. The mixture was diluted with water and the product was extracted with ethyl acetate. The extract was washed with brine and water, dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. The residue was purified by a silica gel column chromatography (ethyl acetate:hexane=2:8) to afford the titled compound (11.8 g, yield 95%, oil).

reactant | 4-(3-bromopropyl)-6-methoxy-1,2-dihydronaphthalene | 35.6 mmol, 10 g | BrCCCC1=CCCC2=CC=C(C=C12)OC | C14H17BrO
reactant | potassium phthalimide | 42.7 mmol, 7.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[3-(7-Methoxy-3,4-dihydronaphthalen-1-yl)propyl]isoindole-1,3-dione | 11.8 g, yield 95% | COC1=CC=C2CCC=C(C2=C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C22H21NO3
